US08193236B2
2-(5-Dimethylaminomethyl-2-trifluoromethyl-1H-in dol-3-yl)-acetamide
A solution of (5-dimethylaminomethyl-2-trifluoromethyl-1H-indol-3-yl)-acetic acid ethyl ester (200 mg, 0.609 mmol) in a mixture of methanol (5 mL) and liquid ammonia (30 mL) is stirred for 6 days in an autoclave at 80° C. After careful evaporation of the ammonia, the remaining solvent is evaporated in vacuo to afford the title compound as a red solid (182 mg, 0.609 mmol, 100%). 1H NMR (400 MHz, DMSO-d6, 298 K): δ=12.18 (bs, 1H), 7.75 (s, 1H), 7.49 (d, J=8.6 Hz, 1H), 7.42 (bs, 1H), 7.35 (d, J=8.6 Hz, 1H), 6.95 (bs, 1H), 3.67 (s, 2H), 3.16 (s, 2H), 2.62 (s, 6H). MS (ES+): 248 (M(C14H17NO3)+H)+. MS (ES+): 300 (M(C14H16F3N3O)+H)+.

reactant | (5-dimethylaminomethyl-2-trifluoromethyl-1H-indol-3-yl)-acetic acid ethyl ester | 0.609 mmol, 200 mg | C(C)OC(CC1=C(NC2=CC=C(C=C12)CN(C)C)C(F)(F)F)=O | C16H19F3N2O2
reactant | ammonia | 30 mL | N | H3N
solvent | methanol | 5 mL | CO | CH4O
product | 2-(5-Dimethylaminomethyl-2-trifluoromethyl-1H-in dol-3-yl)-acetamide | 0.609 mmol, 182 mg, 100% | CN(C)CC=1C=C2C(=C(NC2=CC1)C(F)(F)F)CC(=O)N | C14H16F3N3O
